US06787652B1
1-{5-[2,6-Dichloro-4-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-hydroxy-phenyl}-3-(4-trifluoromethoxy-phenyl)-urea
To a solution of 1-{5-[2,6-dichloro-4-(3,5-dioxo-4-(2-trimethylsilanyl-ethoxy-methyl)4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-methoxy-phenyl}-3-(4-trifluoromethoxy-phenyl)-urea (72 mg, 0.1 mmol) in CH2Cl2 was added dropwise BBr3 (1M in CH2Cl2, 4.0 mL, 0.4 mmol). The mixture was stirred at room temperature for 18 h and quenched with water (10 mL). After stirring at room temperature for 1 h, the quenched mixture was extracted with CH2Cl2 (3×10 mL). The combined CH2Cl2 extracts were dried and concentrated. The residue was purified by preparative TLC (10% MeOH in CH2Cl2) to afford the title compound (25.4 mg) of this EXAMPLE. MS Calc.:584.3 Found:581.8 (M−1).

reactant | 1-{5-[2,6-dichloro-4-(3,5-dioxo-4-(2-trimethylsilanyl-ethoxy-methyl)4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-methoxy-phenyl}-3-(4-trifluoromethoxy-phenyl)-urea | 0.1 mmol, 72 mg | ClC1=C(OC=2C=CC(=C(C2)NC(=O)NC2=CC=C(C=C2)OC(F)(F)F)OC)C(=CC(=C1)N1N=CC(N(C1=O)COCC[Si](C)(C)C)=O)Cl | C30H30Cl2F3N5O7Si
reactant | BBr3 | 0.4 mmol, 1M, 4.0 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-{5-[2,6-Dichloro-4-(3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-2-hydroxy-phenyl}-3-(4-trifluoromethoxy-phenyl)-urea | 25.4 mg | ClC1=C(OC=2C=CC(=C(C2)NC(=O)NC2=CC=C(C=C2)OC(F)(F)F)O)C(=CC(=C1)N1N=CC(NC1=O)=O)Cl | C23H14Cl2F3N5O6
